data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][NH3+:21].[C-:10]#CC[O-]>>[H:20][C:10]#CC[O-].[NH3:21] 10=20;20,21=21
[B-:10]([OH+:11]CCC)(F)(F)F>>[B:10](F)(F)F.CCC[OH:11] 10,11=11
[H:20][O:21]S(=O)(=O)O.C1CCC(CC1)C([NH2:10])([OH2+])O>>[H:20][NH2+:10]C(C1CCCCC1)([OH2+])O.OS(=O)(=O)[O-:21] 10=20;20,21=21
CCC[C:12]1=[C:13](C=C[C:10](=[CH:11]1)C[CH2:20][O:21]S(=O)(=O)C2=CC=C(C=C2)C)[O:14]C.C(=O)O>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CCC[C:12]1=[CH:11][C:10]2(C[CH2:20]2)C=C[C:13]1=[O+:14]C.C(=O)O 10,11=10,20;20,21=21;12,13=11,12;14=13
[H:20][Br:21].CC(C)(C)[CH:11]=[CH2:10]>>[H:20][CH2:10][CH+:11]C(C)(C)C.[Br-:21] 10,11=10,20;20,21=21
[H:20][O:21]C(=O)C.CC(=O)OCC1C(C(C(C(O1)OCC=C)OC(=O)C)O)[O:10]C(C)(C)O.O>>[H:20][O+:10](C1C(OC(C(C1O)OC(=O)C)OCC=C)COC(=O)C)C(C)(C)O.CC(=O)[O-:21].O 10=20;20,21=21
[H:20][O:21]C1=C(C=C(C=C1)Br)[C:11](=[CH:10]CCC)[O-:12].C1CC([N+](=CC2=CC=C(C=C2)[N+](=O)[O-])C1)C3=NN=NN3.C(=O)(C(F)(F)F)[O-].[OH3+]>>[H:20][CH:10](CCC)[C:11](=[O:12])C1=C(C=CC(=C1)Br)[O-:21].C1CC([N+](=CC2=CC=C(C=C2)[N+](=O)[O-])C1)C3=NN=NN3.C(=O)(C(F)(F)F)[O-].[OH3+] 10,11=10,20;20,21=21;12=11
[CH3:20][I:21].C1CC1CN2CCC34C5C(=O)CCC3(C2CC6=CC=C(C(=C46)O5)[O-:10])O>>[CH3:20][O:10]C1=CC=C2CC3C4(CCC(=O)C5C4(C2=C1O5)CCN3CC6CC6)O.[I-:21] 10=20;20,21=21
C1C[C:20]([OH:10])(O)[OH+:21]C1.O>>C(C[C:20](=[OH+:10])O)C[OH:21].O 10=20;20,21=21
[H:20][Cl:21].CC1CCC([C:11](=[CH:10]1)C)C2=CC=CC=C2>>[H:20][CH:10]1C(CCC([C+:11]1C)C2=CC=CC=C2)C.[Cl-:21] 10,11=10,20;20,21=21
[H:20][C:21]1(CC(=O)OC1C2=CC(=C(C=C2)CC)O)[C:22](=[O:23])OC.C[O-:10].CO.C[OH+][Na]>>[H:20][O:10]C.CCC1=C(C=C(C=C1)C2[C:21](=[C:22]([O-:23])OC)CC(=O)O2)O.CO.C[OH+][Na] 10=20;22,23=23;20,21=21,22
[CH3:20][I:21].C1CNC2=[N:10]CCCN2C1>>[CH3:20][N+:10]1=C2NCCCN2CCC1.[I-:21] 10=20;20,21=21
CC(CCC1CCCC1)O[S:20]([O-:10])(Cl)[Cl:21].CC(CCC1CCCC1)[OH2+]>>CC(CCC1CCCC1)O[S:20](=[O:10])Cl.[Cl-:21].CC(CCC1CCCC1)[OH2+] 10=20;20,21=21
CC[CH:20](C)[Br:21].[CH2:10]=[CH:11][N:12]1CCCCC1>>CC[CH:20](C)[CH2:10][CH:11]=[N+:12]1CCCCC1.[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]C.CC1CCC2(CCC3(C(=CC(=O)C4C3(CCC5C4(CC(C(C5(C)C(=O)OC(C)(C)C)[O-:10])C#N)C)C)C2C1C)C)C.B>>[H:20][O:10]C1C(CC2(C(C1(C)C(=O)OC(C)(C)C)CCC3(C2C(=O)C=C4C3(CCC5(C4C(C(CC5)C)C)C)C)C)C)C#N.C[O-:21].B 10=20;20,21=21
CCC1C=CC(C(C1C(=O)N[N:10](C)C)CCCC#N)O.[CH3:20][I:21].C(=O)([O-])O[K].[K+]>>CCC1C=CC(C(C1C(=O)N[N+:10](C)(C)[CH3:20])CCCC#N)O.[I-:21].C(=O)([O-])O[K].[K+] 10=20;20,21=21
[H:20][N:21](N=CC)S(=O)(=O)C1=CC=C(C=C1)C.CC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)C.CC=N[N-:21]S(=O)(=O)C1=CC=C(C=C1)C 10=20;20,21=21
[H:20][OH2+:21].CC1C[O:10]1>>[H:20][O+:10]1CC1C.[OH2:21] 10=20;20,21=21
[H:20][C:21]1(CC(C(C=C1)NC(=O)C)NC(=O)OC(C)(C)C)[O:22][I+:23]2(C3=C(C=CC=C3)C(=O)O2)OC(=O)C.CC(=O)[O-:10].CC(=O)O>>[H:20][O:10]C(=O)C.CC(=O)NC1C=C[C:21](=[O:22])CC1NC(=O)OC(C)(C)C.CC(=O)O[I:23]1C2=C(C=CC=C2)C(=O)O1.CC(=O)O 10=20;22,23=23;20,21=21,22
C1CN(C(C[C:20]1([OH:10])[OH+:21]CCO)CC2=CC=CC=C2)C(=O)C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F.CCO.O.[Cl-]>>C(CO)[OH:21].C1CN(C(C[C:20]1=[OH+:10])CC2=CC=CC=C2)C(=O)C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F.CCO.O.[Cl-] 10=20;20,21=21
C[CH:20]=[O:21].COP(=O)([CH2-:10])OC>>C[CH:20]([CH2:10]P(=O)(OC)OC)[O-:21] 10=20;20,21=21
[H:20][C:21](C(=O)N(C)C(=O)C1CN(C2=CC=CC(=C12)C=C)C(=O)C3=CC=CC=C3)([C:22](=[O:23])OC)N=N[N-:10]S(=O)(=O)C.CC[NH+](CC)CC>>[H:20][N:10](N=N[C:21](=[C:22]([O-:23])OC)C(=O)N(C)C(=O)C1CN(C2=CC=CC(=C12)C=C)C(=O)C3=CC=CC=C3)S(=O)(=O)C.CC[NH+](CC)CC 10=20;22,23=23;20,21=21,22
[H:20][NH+:21]1C2=C(C=CC=C2)N=C3C1(C4=CC5=C(C=CC=C5)C=C43)O.CC(=O)[O-:10].CO.O>>[H:20][O:10]C(=O)C.C1=CC2=C(C=C1)C=C3C(=C2)C4=NC5=C(C=CC=C5)[NH:21]C34O.CO.O 10=20;20,21=21
CCO[C:11](=[CH:10]C(=O)OCC)[O-:12].C1=CC=C(C=C1)[CH2:20][Br:21]>>CCOC(=O)[CH:10]([CH2:20]C1=CC=CC=C1)[C:11](=[O:12])OCC.[Br-:21] 10,11=10,20;20,21=21;12=11
CC(=O)O[I:10]1(C2=C(C=CC=C2)C(=O)O1)(OCC(CC3=CC=CC=C3)NC(=O)C4=CC=CC=C4)[O:11]C(=O)C.CC(=O)O>>CC(=O)[O-:11].CC(=O)O[I+:10]1(C2=C(C=CC=C2)C(=O)O1)OCC(CC3=CC=CC=C3)NC(=O)C4=CC=CC=C4.CC(=O)O 10,11=11
[H:20][O:21]S(=O)(=O)O.C1C([O:10]1)CCCCO>>[H:20][O+:10]1CC1CCCCO.OS(=O)(=O)[O-:21] 10=20;20,21=21
CCC1CC(=[O:10])NC2=CC=CC=C12.CC(C)C[AlH:20]CC(C)C>>CCC1CC(=[O+:10][AlH-:20](CC(C)C)CC(C)C)NC2=CC=CC=C12 10=20
CCC(=O)NC(CC1CCCCC1)C(=O)O[C:20](CC)([O-:10])[O:21]C(=O)CC.C1=CC=[NH+]C=C1>>CCC(=O)NC(CC1CCCCC1)C(=O)O[C:20](=[O:10])CC.CCC(=O)[O-:21].C1=CC=[NH+]C=C1 10=20;20,21=21
[H:20][CH:21]1CC2C3CC4=C5C2(CCN3CCCCCC)C([C:22]1=[OH+:23])OC5=C(C=C4)OC.CCCCCC[N:10]1CCC23C4C1CC5=C2C(=C(C=C5)OC)OC3C(=O)CC4.CO.COC=[O+]C>>[H:20][N+:10]1(CCC23C4C1CC5=C2C(=C(C=C5)OC)OC3C(=O)CC4)CCCCCC.CCCCCCN1CCC23C4C1CC5=C2C(=C(C=C5)OC)OC3[C:22](=[CH:21]C4)[OH:23].CO.COC=[O+]C 10=20;22,23=23;20,21=21,22
[H:20][O:21]CC1=CC(=CC(=C1)OCC#C)OCC#C.[C-:10](Br)(Br)Br.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br>>[H:20][C:10](Br)(Br)Br.C#CCOC1=CC(=CC(=C1)C[O-:21])OCC#C.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br 10=20;20,21=21
C[S+:20](C)Cl.[OH2:10]>>C[S:20](C)([OH2+:10])Cl 10=20,
CC1=[O+:21][CH:20]2C(O1)CCCO2.C[OH:10].[Cl-]>>CC(=[O:21])OC1CCCO[CH:20]1[OH+:10]C.[Cl-] 10=20;20,21=21
